US07834051B2
2-chloro-4-[(2S,3S)-3-hydroxy-2-(1-methylethyl)-5-oxopyrrolidin-1-yl]benzonitrile
To a mixture of 2-chloro-4-[3-hydroxy-2-(1-methylethyl)-5-oxo-2,5-dihydro-1H-pyrrol-1-yl]benzonitrile (300 mg) and acetic acid (0.68 mL) in acetonitrile (10 mL) was added sodium borohydride (103 mg) at 0° C. in small portions. The mixture was warmed to room temperature and stirred for 1 hr. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (eluent: hexane:ethyl acetate=4:1→ethyl acetate), and recrystallized from hexane-ethyl acetate to give the title compound as colorless crystals (yield: 76 mg, 25%).

reactant | 2-chloro-4-[3-hydroxy-2-(1-methylethyl)-5-oxo-2,5-dihydro-1H-pyrrol-1-yl]benzonitrile | 300 mg | ClC1=C(C#N)C=CC(=C1)N1C(C(=CC1=O)O)C(C)C | C14H13ClN2O2
reactant | acetic acid | 0.68 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 103 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-chloro-4-[(2S,3S)-3-hydroxy-2-(1-methylethyl)-5-oxopyrrolidin-1-yl]benzonitrile | yield: 76 mg, 25% | ClC1=C(C#N)C=CC(=C1)N1[C@H]([C@H](CC1=O)O)C(C)C | C14H15ClN2O2
